US08426414B2
Part B: Trans-2-(6-fluoro-pyridin-2yl)-cyclopropanecarboxylic acid tert-butyl ester
To a suspension of NaH (60% oil dispersion, 320 mg, 8 mmol) in toluene (10 mL) was added dropwise t-butyl diethylphosphonoacetate (1.92 g, 7.6 mmol). The resulting mixture was stirred at rt for 10 min., then a solution of 2-fluoro-6-oxiranyl-pyridine (530 mg, 3.8 mmol) in toluene (5 mL) was added dropwise to the reaction mixture. The resulting mixture was then heated at reflux for 12 h. The mixture was cooled to rt and diluted with EtOAc and washed with NH4Cl (saturated) and water. The EtOAc layer was dried (Na2SO4). The solvent was removed and the residue was subjected to ISCO (40 g column, hexane 3 min. then 0-60% EtOAc in hexane over 60 min.) to give the desired product (165 mg). MS (MH+ 238).

reactant | NaH | 8 mmol, 320 mg | [H-].[Na+]
reactant | t-butyl diethylphosphonoacetate | 7.6 mmol, 1.92 g | C(C)OP(=O)(OCC)CC(=O)OC(C)(C)C | C10H21O5P
reactant | 2-fluoro-6-oxiranyl-pyridine | 3.8 mmol, 530 mg | FC1=NC(=CC=C1)C1OC1 | C7H6FNO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Trans-2-(6-fluoro-pyridin-2yl)-cyclopropanecarboxylic acid tert-butyl ester | 165 mg | C(C)(C)(C)OC(=O)[C@H]1[C@@H](C1)C1=NC(=CC=C1)F | C13H16FNO2
